US04294835
To 15.0 g of N-(1-iso-propylthio-2,2,2-trichloroethyl)-2-acetoxybenzamide was added 80 ml of acetic acid and 3.8 g of 35% hydrogen peroxide solution was added dropwise thereto under stirring. Then the reaction was effected at 40°-50° C. for three hours and the reaction mixture was poured into water. 100 ml of ethyl acetate was added thereto and the solution was separated, dried, concentrated, washed and dried again to obtain 12.3 g of N-(1-iso-propylsulfinyl-2,2,2-trichloroethyl)-2-acetoxybenzamide.

reactant | N-(1-iso-propylthio-2,2,2-trichloroethyl)-2-acetoxybenzamide | 15.0 g | C(C)(C)SC(C(Cl)(Cl)Cl)NC(C1=C(C=CC=C1)OC(C)=O)=O | C14H16Cl3NO3S
reactant | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | 3.8 g | OO | H2O2
reactant | water | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-(1-iso-propylsulfinyl-2,2,2-trichloroethyl)-2-acetoxybenzamide | 12.3 g | C(C)(C)S(=O)C(C(Cl)(Cl)Cl)NC(C1=C(C=CC=C1)OC(C)=O)=O | C14H16Cl3NO4S
